US05776718
Method A: Z-Hph-α-SO2Ph (1.0 g, 2.44 mmol) was treated with 30% hydrogen bromide in acetic acid (5 mL). After 30 minutes, the mixture was diluted with ether (300 mL), filtered, washed with ether (2×30 mL), and dried in vacuo to give 0.74 g (86%) 1-amino-3-phenyl-1-phenylsulfonylpropane hydrobromide (HBr.Hph-α-SO2Ph). To a solution of Mu-PheOH (0.64 g, 2.3 mmol) in THF (15 mL) were added 4-methylmorpholine (0.302 mL, 2.3 mmol) and isobutyl chloroformate (0.312 mL, 2.3 mmol). The mixture was stirred for 10 minutes. HBr.Hph-α-SO2Ph (0.74 g, 2.1 mmol) was added, followed by 4-methylmorpholine (0.302 mL, 2.3 mmol). After 45 minutes, the mixture was diluted with ethyl acetate (30 mL), washed with 15 mL each of 1M HCl, saturated aqueous sodium bicarbonate, and brine, dried over MgSO4, filtered, and the solvent was removed under reduced pressure to give 0.75 g (65%) of the product, Mu-Phe-Hph-α-SO2Ph.

reactant | 1-benzyloxycarbonylamino-3-phenyl-1-phenylsulfonylpropane | 2.44 mmol, 1.0 g | C(C1=CC=CC=C1)OC(=O)NC(CCC1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C23H23NO4S
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | ether | 300 mL | CCOCC | C4H10O
product | 1-amino-3-phenyl-1-phenylsulfonylpropane hydrobromide | 0.74 g, 86% | Br.NC(CCC1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | InChI=1S/C15H17NO2S.BrH/c16-15(12-11-13-7-3-1-4-8-13)19(17,18)14-9-5-2-6-10-14;/h1-10,15H,11-12,16H2;1H
